US08097759B2
2-Hydroxy-N-[2-methoxy-5-(trifluoromethyl)phenyl]-5-methylbenzamide (Compound No. 138)
Using 5-methylsalicylic acid and 2-methoxy-5-(trifluoromethyl)aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-methylsalicylic acid | CC1=CC=C(C(C(=O)O)=C1)O | C8H8O3
reactant | 2-methoxy-5-(trifluoromethyl)aniline | COC1=C(N)C=C(C=C1)C(F)(F)F | C8H8F3NO
product | 2-Hydroxy-N-[2-methoxy-5-(trifluoromethyl)phenyl]-5-methylbenzamide | Yield: 77.9% | OC1=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)OC)C=C(C=C1)C | C16H14F3NO3
